US08022223B2
3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)-1-methylpyrrolidin-2-one
Prepared according to the method of Example 391, Step C, from 1-(5-bromo-3-(phenoxypyridin-2-yl)thiourea and 3-(3-bromo-2-oxopropyl)-1-methylpyrrolidin-2-one. 1H NMR (DMSO-d6 δ 1.60-1.72 (m, 1H), 2.08-2.14 (m, 1H), 2.51-2.58 (m, 1H), 2.68-2.78 (m, 5H), 3.02 (d, 1H), 3.21-3.29 (m, 2H), 6.80 (s, 1H), 7.13-7.47 (m, 6H), 8.25 (s, 1H).

reactant | 5-bromo-3-(phenoxypyridin-2-yl)thiourea | BrC=1C=C(C(=NC1)NC(N)=S)OC1=CC=CC=C1 | C12H10BrN3OS
reactant | 3-(3-bromo-2-oxopropyl)-1-methylpyrrolidin-2-one | BrCC(CC1C(N(CC1)C)=O)=O | C8H12BrNO2
product | 3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)-1-methylpyrrolidin-2-one | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC1C(N(CC1)C)=O)OC1=CC=CC=C1 | C20H19BrN4O2S
